US04563531
The batch chlorinator R1 was charged with 50 grams of starting material containing 90.4% 3,5-dichloro-2-trichloromethyl pyridine by weight, and chlorine was sparged through the reactor by means of sparger 14 for 15 hours at a reaction temperature of 170° C. Samples were taken at the time which corresponded to about 14% conversion of the 3,5-dichloro-2-trichloromethly pyridine. The yield of 2,3,5-trichloropyridine at this temperature, was about 14%, i.e., about half the yield of like runs at 200° C. (Table ONE). The chlorination was then continued under the same reaction conditions except at a temperature of 160° C. and yielded no appreciable quantity of 2,3,5-trichloropyridine in 8 hours. Analytical data with respect to this Example are presented in the following Table TWO:

reactant | 3,5-dichloro-2-trichloromethyl pyridine | ClC=1C(=NC=C(C1)Cl)C(Cl)(Cl)Cl | C6H2Cl5N
reactant | chlorine | ClCl | Cl2
product | 2,3,5-trichloropyridine | ClC1=NC=C(C=C1Cl)Cl | C5H2Cl3N
